US09314025B2
Step B: Preparation of 6-chloro-N-2-thiazolyl-3-pyridinemethanamine
N-[(6-chloro-3-pyridinyl)methylene]-2-thiazolamine (i.e. the product of Step A) (0.55 g, 2.46 mmol) was added portionwise to a stirred excess of sodium borohydride (0.45 g, 11.8 mmol) in methanol (30 mL). Additional portions of sodium borohydride (2×1 equivalent) were added during the addition of the imine to maintain an exothermic reaction. After addition was complete, the reaction mixture was allowed to stir for 5 min at ambient temperature. The excess reducing agent was quenched by adding glacial acetic acid until gas evolution ceased. The clear reaction mixture was concentrated, and the resulting residue was partitioned between saturated aqueous sodium carbonate and ethyl acetate. The aqueous phase was extracted with ethyl acetate (3×30 mL), and the combined organic phases were washed with brine, dried (MgSO4) and concentrated to give the title compound as a tan powder (0.55 g).

reactant | N-[(6-chloro-3-pyridinyl)methylene]-2-thiazolamine | ClC1=CC=C(C=N1)C=NC=1SC=CN1 | C9H6ClN3S
reactant | sodium borohydride | 11.8 mmol, 0.45 g | [BH4-].[Na+]
reactant | sodium borohydride | 1 equivalent | [BH4-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 6-chloro-N-2-thiazolyl-3-pyridinemethanamine | 0.55 g | ClC1=CC=C(C=N1)CNC=1SC=CN1 | C9H8ClN3S
